US05502054
By the method of Example 1, Step B, 9.79 g (0.042 mole) of 4-(2,4-dichlorophenyl)butanoic acid and 5.8 g (0.050 mole) of oxalyl chloride are reacted in 75 mL of diethyl ether and two drops of N,N-dimethylformamide, yielding 4-(2,4-dichlorophenyl)butanoic acid chloride.

reactant | 4-(2,4-dichlorophenyl)butanoic acid | 0.042 mole, 9.79 g | ClC1=C(C=CC(=C1)Cl)CCCC(=O)O | C10H10Cl2O2
reactant | oxalyl chloride | 0.050 mole, 5.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
catalyst | N,N-dimethylformamide | two drops | CN(C=O)C | C3H7NO
product | 4-(2,4-dichlorophenyl)butanoic acid chloride | ClC1=C(C=CC(=C1)Cl)CCCC(=O)Cl | C10H9Cl3O
